US06861432B2
4-[3-[5-[4-[(3-Fluorophenyl)sulfonyl]piperazin-1-yl]pentyl]-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile
0.2 ml of a solution of triethylamine in tetrahydrofuran (1.5 mol/l) and 8 mg of 3-fluorophenylsulfonyl chloride in 0.4 ml of tetrahydrofuran were added to a solution of 9 mg of 4-[2,5-dihydro-3-methyl-2,5-dioxo-4-[5-(piperazin-1-yl)pentyl]-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile in 0.4 ml of tetrahydrofuran, and the mixture was stirred for 8 hours at room temperature. For working-up, the reaction mixture was diluted with ethyl acetate and washed with semi-saturated sodium bicarbonate solution. After the organic phase was concentrated by evaporation, it was chromatographed with methanol/dichloromethane on silica gel, and 6 mg of the title compound was thus obtained as a white solid.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-fluorophenylsulfonyl chloride | 8 mg | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 4-[2,5-dihydro-3-methyl-2,5-dioxo-4-[5-(piperazin-1-yl)pentyl]-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile | 9 mg | CC=1C(N(C(C1CCCCCN1CCNCC1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C22H25F3N4O2
solvent | tetrahydrofuran | 1.5 mol/l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-[5-[4-[(3-Fluorophenyl)sulfonyl]piperazin-1-yl]pentyl]-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile | FC=1C=C(C=CC1)S(=O)(=O)N1CCN(CC1)CCCCCC=1C(N(C(C1C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C28H28F4N4O4S
